US07700641B2
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 3-(bromomethyl)pyridine hydrobromide to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, 1′-(pyridin-3-ylmethyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one was obtained, which was treated with 4.0 M HCl in dioxane to give the title compound (70%) as a white solid: mp 151-153° C.; 1H NMR (300 MHz, CD3OD) δ 9.07-8.61 (m, 3H), 8.19-8.04 (m, 1H), 7.42-6.71 (m, 7H), 5.28 (s, 2H), 5.05 (d, 1H), 4.86 (d, 1H); 13C NMR (75 MHz, CD3OD) δ 179.43, 163.5, 151.8, 147.0, 142.9, 142.4, 142.2, 133.0, 130.6, 129.3, 128.9, 125.5, 125.4, 125.3, 114.9, 110.5, 104.9, 82.0, 58.9, 42.0; MS (ES+) m/z 413 (M+1).

reactant | 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | FC(OC1=CC2=C(C=C1)C1(C(NC3=CC=CC=C13)=O)CO2)(F)F | C16H10F3NO3
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 3-(bromomethyl)pyridine hydrobromide | Br.BrCC=1C=NC=CC1
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-(pyridin-3-ylmethyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | N1=CC(=CC=C1)CN1C(C2(C3=CC=CC=C13)COC1=C2C=CC(=C1)OC(F)(F)F)=O | C22H15F3N2O3
